US04337256
Forty (40) grams of 4-bromobenzoic acid was dissolved in 200 ml of dry dimethylformamide. While the solution was cooled with ice with stirring, 23 g of triethylamine and 22 g of ethyl chloroformate were added. After a lapse of 30 minutes, 28 g of 1-amino-2-(2-methylphenyl)ethane was added dropwise. The mixture was stirred at room temperature for 1 hour and then at 50° to 60° C. for 1 hour, and poured into ice water. The crystals precipitated were washed in water, dried, and recrystallized from cyclohexane to afford 49 g of 1-(4-bromobenzoylamino)-2-(2-methylphenyl)ethane as colorless needles having a melting point of 101.5° to 103.0° C.

reactant | 4-bromobenzoic acid | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | triethylamine | 23 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 22 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-amino-2-(2-methylphenyl)ethane | 28 g | NCCC1=C(C=CC=C1)C | C9H13N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-(4-bromobenzoylamino)-2-(2-methylphenyl)ethane | 49 g | BrC1=CC=C(C(=O)NCCC2=C(C=CC=C2)C)C=C1 | C16H16BrNO
